* C:\Users\gonza\Desktop\TPProfresional\TProfesional_EEG\LTSpice_projects\Atenuador.asc
V§Salida_DAC N005 0 PWL file=C:\Users\gonza\Downloads\asd.txt AC 5
Vref N003 0 5
XU1 N005 N001 5V -5V N002 AD820
R2 N003 N001 10k
R4 N002 N001 10k
V1 5V 0 6
V4 0 -5V 6
R3 N002 N006 1Meg
R5 N006 0 10
XU2 N006 N004 5V -5V N004 AD820
XX1 N004 5V -5V Vout bandpassfilter
R1 Vout 0 5Meg

* block symbol definitions
.subckt bandpassfilter Input +V -V Output
XU2 N009 N004 +V -V N004 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R2 N001 Input 10k
R4 N003 N002 10k
R5 N003 N009 40k
C3 N003 N004 415n
C1 N008 0 147n
R1 N008 N001 10k
C2 N002 N001 172n
XU1 N008 N002 +V -V N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C4 N009 0 61n
XU3 N010 Output +V -V Output level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 N007 N006 6680
R6 Output N005 2760
R7 N010 0 18900
C5 N007 N005 220µ
C6 N011 N006 220µ
R9 0 N011 7830
C7 N006 N004 220µ
XU4 N011 N007 +V -V N007 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C8 N010 N005 220µ
.ends bandpassfilter

* .ac dec 1000 0.01 1k
* Regulador
* DAC AD5308
* Rail to rail
* Atenuador
.noise V(Vout) Salida_DAC dec 1000 0.01 1k
* .tran 9
.lib ADI1.lib
.lib UniversalOpAmp1.lib
.backanno
.end
